US06689806B1
Tert-butyl isocyanate (0.685 mL, 6 mmol) was added dropwise to a stirred mixture of 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (709 mg, 4 mmol) in tetrahydrofuran (8 mL), dimethylforamide (2 mL) and pyridine (3 drops). The mixture was heated at 70° C. for 15 hours and 80° C. for 39 hours. 0.457 mL of tert-butyl isocyanate was added to the reaction and continued to heat at 90° C. for 24 hours. More tert-butyl isocyanate (0.457 mL) was added and continued to heat at 90° C. for 37 hours. The reaction was cooled, poured into 1 N sodium hydroxide solution (100 mL) and extracted with ethyl acetate (200 mL). The organic layer was washed with 1 N hydrochloric acid (100 mL) and brine, dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from methanol/ethyl acetate/hexane to give 130 mg (12%) of tert-butyl-carbamic acid 2-(2-oxo-2,3-dihydro-1H-indol-4-yl)-ethyl ester.

reactant | Tert-butyl isocyanate | 6 mmol, 0.685 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 4 mmol, 709 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | tert-butyl isocyanate | 0.457 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | tert-butyl isocyanate | 0.457 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | sodium hydroxide | 1 N, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | dimethylforamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
product | tert-butyl-carbamic acid 2-(2-oxo-2,3-dihydro-1H-indol-4-yl)-ethyl ester | 130 mg, 12% | O=C1NC2=CC=CC(=C2C1)CCOC(NC(C)(C)C)=O | C15H20N2O3
